US04628024
82.5 g of ethyl m-aminobenzoate was dissolved in 500 ml of toluene and to the solution was added dropwise 83.4 g of N,N-diethylthiocarbamoyl chloride at room temperature with stirring over a period of about 1 hour. The mixture was then refluxed by heating for 5 hours. The toluene was distilled off under reduced pressure, to the residue was added 300 ml of ethyl acetate and the ethyl acetate solution was washed with water. The ethyl acetate was distilled off under reduced pressure and the residue was further subjected to vacuum distillation to obtain 80 g of ethyl m-isothiocyanatobenzoate as oily product. Boiling Point: 125° C./0.6 mm Hg. Yield: 77%.

reactant | ethyl m-aminobenzoate | 82.5 g | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | N,N-diethylthiocarbamoyl chloride | 83.4 g | C(C)N(C(=S)Cl)CC | C5H10ClNS
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl m-isothiocyanatobenzoate | 80 g, Yield: 77% | N(=C=S)C=1C=C(C(=O)OCC)C=CC1 | C10H9NO2S
